US05049671
B. (±)-4-Acetamido-1-cyclopentene methanol
(±)-Methyl-4-acetamido-1-cyclopentene-1-carboxylate (3.66 g, 20.0 mmol) was dried by evaporation of toluene giving a solution with a final volume of 50 mL. This solution was cooled to -70° C. under nitrogen. A solution of diisobutylaluminum hydride in toluene (1.5 M, 42 mL, 63 mmol) was added dropwise over 2 hours. The resulting hazy solution was stirred at -70° C. for an additional 40 minutes. Cold methanol (5 mL) was added dropwise, followed by a solution of sodium potassium tartrate (11.29 g) in water (15 mL) with the temperature maintained at -70° C. The resulting mixture was allowed to stir at 0° C. for several hours, diluted with methanol (150 mL) and filtered. The methanol was evaporated and the residual brown oil (3.44 g) chromatographed on silica gel. Title compound was eluted as pale yellow oil with 5% methanol-chloroform; 1.30 g (42%).

reactant | (±)-Methyl-4-acetamido-1-cyclopentene-1-carboxylate | 20.0 mmol, 3.66 g | COC(=O)C1=CCC(C1)NC(C)=O | C9H13NO3
reactant | toluene | C1(=CC=CC=C1)C | C7H8
reactant | diisobutylaluminum hydride | [H-].C(C(C)C)[Al+]CC(C)C
reactant | toluene | 63 mmol, 1.5 M, 42 mL | C1(=CC=CC=C1)C | C7H8
reactant | sodium potassium tartrate | 11.29 g | C(=O)([O-])C(O)C(O)C(=O)[O-].[K+].[Na+]
solvent | water | 15 mL | O | H2O
solvent | methanol | 150 mL | CO | CH4O
solvent | methanol | 5 mL | CO | CH4O
product | (±)-4-Acetamido-1-cyclopentene methanol | C(C)(=O)NC1CC=C(C1)CO | C8H13NO2
